US07547691B2
(C). Preparation of 2-{5-methyl-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid tri-hydrochloride
2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid methyl ester (1.31 g, 2.98 mmol) is dissolved in methanol (30 mL), THF (30 mL) and water (10 mL) and lithium hydroxide solution (4.6 mL of 2.0 M solution) is added. The solution is heated at 70° C. for 4.5 hours and 5 N HCl (9 mL) is added in one portion while still heating the solution. The solution is cooled to room temperature and the resulting solid is filtered and washed with methanol. The solid is dried at 60° C. in a vacuum oven for 4 hours to give the title compound (1.43 g, 97% yield). ES+(m/z) 426 [M+H].

reactant | 2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid methyl ester | 2.98 mmol, 1.31 g | COC(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C)C1 | C23H29N5O2S
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 2.0 M, 4.6 mL | [OH-].[Li+]
reactant | HCl | 5 N, 9 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-{5-methyl-2-[3-(4-methyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid tri-hydrochloride | 1.43 g, 97% yield | Cl.Cl.Cl.CC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=C(C=C2)C(=O)O | InChI=1S/C22H27N5O2S.3ClH/c1-15-14-24-22(23-6-3-7-27-10-8-26(2)9-11-27)25-20(15)19-12-16-4-5-17(21(28)29)13-18(16)30-19;;;/h4-5,12-14H,3,6-11H2,1-2H3,(H,28,29)(H,23,24,25);3*1H
